US07560558B2
Diethyl 2-[(4-methoxy-3-methyl-phenylamino)-methylene]-malonate (73.9 g) was dissolved in diphenyl ether (200 ml) to prepare a solution which was then stirred at 220° C. for 2 hr. The reaction solution was cooled to room temperature, hexane was then added to the reaction solution, and the precipitated crystal was collected by filtration to give ethyl 6-methoxy-7-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylate (25.5 g, yield 35%).

reactant | Diethyl 2-[(4-methoxy-3-methyl-phenylamino)-methylene]-malonate | 73.9 g | COC1=C(C=C(C=C1)NC=C(C(=O)OCC)C(=O)OCC)C | C16H21NO5
reactant | hexane | CCCCCC | C6H14
solvent | diphenyl ether | 200 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 6-methoxy-7-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylate | 25.5 g, yield 35% | COC=1C=C2C(C(=CNC2=CC1C)C(=O)OCC)=O | C14H15NO4
